US04707541
8. Boc-Leu-Gln-Asp(OBzl)-Ile-Met-NH-NH2
17.9 g (17.5 mM) of Boc-Leu-Gln-Asp(OBzl)-Ile-Met-NH-NH-Troc are dissolved in a mixture of 200 ml of DMF and 50 ml of acetic acid and strongly stirred with mechanical stirring means. 11.5 g of powdered zinc (300 mesh=47 μm) are added in one operation and stirring is continued for 1 hour and 40 mins. at ambient temperature. The solid is drained, washed in DMF and the filtrate is introduced in 740 g of ice. The mixture is left to stand for one night, and then drained. The precipitate is washed with large quantities of water and dried in the open, then in a desiccator +P205.

reactant | Boc-Leu-Gln-Asp(OBzl)-Ile-Met-NH-NH-Troc | 17.5 mM, 17.9 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)NNC(=O)OCC(Cl)(Cl)Cl)C(=O)OC(C)(C)C | C41H63Cl3N8O12S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 11.5 g | [Zn] | Zn
product | Boc-Leu-Gln-Asp(OBzl)-Ile-Met-NH-NH2 | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)NN)C(=O)OC(C)(C)C | C38H62N8O10S
